Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],2.07937644256
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.4411303279799998
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.7123826297
[H:1][O:2][C:3]=[C:5]([H:6])[H:7].[H:4]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-4.82285053573
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[C:7]([H:8])([H:9])[H:10].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6],0.7962600229189999
[O:1]=[C:2]([H:3])[C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([C:4][H:5])([H:12])[H:13],3.07672112825
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10],3.42695327364
[H:1][C:2]#[C:3][C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-1.83275715847
[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9]>>[C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]([H:4])=[C:5],4.3066644430300025
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-5.635566441440001
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],6.0988331569000005
[H:18].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.5420943224400006
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5][H:6]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.32992469292
[H:1][O:2][C:3][C@:8]([C:4]=[C:5]([H:6])[H:7])([H:9])[O:10][H:11]>>[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])[H:7])[C@:8]1([H:9])[O:10][H:11],-2.08200328308
[C:1]#[C:2].[C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([O:6][H:7])[O:8][H:9],-6.64098453921
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.051010864649999
[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[H:10].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:11]([H:12])[H:13],4.61650713503
[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[H:4].[O:5]=[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.5105812001
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4](=[C:5][H:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.6825516818400015
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14].[H:5],4.844677818919999
[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.27606758631
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5][H:6]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.948069789
[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:6]/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-7.37460326745
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:5][C:6]([H:7])[O:8][H:9],1.11984917892
[C:1]#[C:2][C:3]#[C:4][C:5]([H:6])[O:7][H:8]>>[C:1]#[C:2][C:3]#[C:4][C:5][O:7][H:8].[H:6],4.081501287219998
[C:1]=[C:2]([H:3])[H:4].[C:5](\[H:6])(=[C:7]\[O:8][H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C@:5]([H:6])([C:7][O:8][H:9])[O:10][H:11],0.329768860309
[C:1]#[C:2][C:3][C:7]([H:8])[H:9].[O:4][O:5][H:6]>>[C:1]#[C:2][C:3]([O:4][O:5][H:6])=[C:7]([H:8])[H:9],-1.42821184339
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-1.57340981404
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3],5.91151976395
